Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
LLE calf swelling, L shoulder pain

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y.o obese male, on clomiphene for fertility concerns,
with a recently diagnosed DVT and initiated on Lovenox/warfarin
on ___, presenting on ___ with left shoulder pain,
found to have a pulmonary embolus.

He reports that he was in his usual state of health when around
___, his family noted he had some unusual bruising on his
left calf. He reported left calf tenderness at the time. He
wasn't sure what to make of it, but because he was planning to
travel to ___, he visited his doctor on ___ who obtained
an ultrasound. The RLE ultrasound was significant for a lower
extremity DVT. He was started on Lovenox injections as well as
warfarin, with a plan for a repeat INR check on ___. He was
instructed that should he feel any new symptoms such as chest
pain, shortness of breath, numbness or tingling in his leg, he
should present to care.

On the day of admission, he developed a discomfort in his left
shoulder or scapula, which is worsened by movement of the
shoulder. He thought it was musculoskeletal, but because of his
recent diagnosis of DVT, he presented to care for evaluation.

In the ED, initial VS were stable.
Exam significant for focal tenderness in the medial L latissmus
with full shoulder internal rotation.
He underwent CTA which was significant for subsegmental 
pulmonary
emboli.
He was started on IV heparin.
He remained on room air, without tachypnea. BNP and troponin 
were
negative.
After discussion with the ED, they felt he needed admission for
monitoring and for possible stabilization on heparin prior to
transitioning to an alternative anticoagulation regimen.

Upon arrival, the patient feels well and tells that story as
above. He feels his left leg pain has improved. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- Obesity
- History of testicular torsion as a child s/p repair
- Infertility on testosterone supplementation

 
Social History:
___
Family History:
Denies FH of blood clot. Denies FH of frequent
miscarriages. He reports his paternal grand father had a heart
attack as well as his paternal uncle. 

 
Physical Exam:
Exam on admission - Unchanged at discharge
VITALS: 97.7 PO 130 / 85 R Sitting 55 18 99 RA 
GENERAL: Alert and
in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Left arm with mild erythematous lesion, likely tinea
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Labs this admission:
Heme
___ 06:50AM BLOOD WBC-4.7 RBC-3.91* Hgb-11.7* Hct-34.2* 
MCV-88 MCH-29.9 MCHC-34.2 RDW-12.8 RDWSD-40.7 Plt ___
___ 10:55PM BLOOD WBC-5.3 RBC-4.08* Hgb-12.0* Hct-35.5* 
MCV-87 MCH-29.4 MCHC-33.8 RDW-12.5 RDWSD-39.8 Plt ___
___ 10:55PM BLOOD ___ PTT-33.4 ___ 06:50AM BLOOD ___ PTT-150* ___

Chem
___ 10:55PM BLOOD Glucose-95 UreaN-20 Creat-0.9 Na-141 
K-4.1 Cl-106 HCO3-22 AnGap-13
___ 10:55PM BLOOD proBNP-57
___ 10:55PM BLOOD cTropnT-<0.01
___ 06:50AM BLOOD Calcium-9.1 Phos-PND Mg-PND

Imaging and other studies this admission:
CT A ___
Bilateral segmental and subsegmental pulmonary emboli. No
evidence of right heart strain. 

EKG sinus rhythm, normal intervals, normal R wave progression, S 
wave in lead 1, t wave inversion in III, V1-V2. 

Prior relevant imaging or studies:
LLE Ultrasound ___
FINDINGS:
There is a thrombus in popliteal tibial vein extending from knee
to the mid calf. The common femoral vein, femoral vein, 
popliteal veins appear patent with normal flow and 
compressibility. 
IMPRESSION:
There is thrombus in the posterior tibial vein compatible with 
deep venous thrombosis.
 
Brief Hospital Course:
This is a ___ with hypogonadism on clomiphene and obesity and 
very recent diagnosis of DVT (on ___, started on 
Lovenox-->Coumadin), who presented to the ED with shoulder pain 
and was found to have bilateral segmental and subsegmental 
pulmonary emboli.

# Leg swelling due to
# DVT, acute and
# Chest pain due to
# Pulmonary emboli, acute, bilateral segmental and subsegmental:
Seemingly unprovoked by history, but could be related to 
endocrine modulators he was taking for infertility and 
hypogonadism (Proxeed supplement - should just be vitamins but 
it is not FDA approved) and Clomiphine. 

He was monitored very closely and remained hemodynamically 
stable. He required no oxygen. He felt well the entire time. His 
pain was mild and he did not have pain by the time I evaluated 
him in the morning.

His laboratory studies showed normal BNP and normal Tn.

Given his stability, lack of evidence of RH strain, and the very 
short interval between starting his anticoagulant therapy and 
this event, it was felt safe for him to resume his prior 
treatment with Lovenox ___ BID and Coumadin 5mg HS.

We had a long discussion during which all questions were 
answered. He and his wife expressed understanding of and 
agreement with the plan. He has followup with ___ Hematology 
early next week for further discussion/evaluation/management.

# Modest thrombocytopenia: I reviewed his records from ___ and 
it appears he had thrombocytopenia prior to starting any heparin 
products. Potentially due to consumption in setting of VTE. No 
other obvious cause apparent. Extent and timecourse would be 
wrong for HIT even if he didn't have thrombocytopenia 
pre-heparin exposure. He has hematology follow up as mentioned. 
I recommended he ask his providers to trend this laboratory 
study to normalization and consider further workup if it fails 
to improve.

# Hypogonadism: Stable here. I advised him to avoid non-FDA 
approved supplements. He was amenable to stopping Proxeed. He 
will continue clomiphene for the time being as it has helped him 
with weight loss. I thought this was reasonable as he is going 
to be on anticoagulation anyway.

>50% of 80 minutes spent face to face in counseling and 
coordinating his care. Much greater than 30 minutes spent 
coordinating discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enoxaparin Sodium 100 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
2. Warfarin 5 mg PO DAILY16 
3. clomiPHENE citrate 50 mg oral EVERY OTHER DAY 
4. Ketoconazole 2%  1 Appl TP BID 

 
Discharge Medications:
1.  clomiPHENE citrate 50 mg oral EVERY OTHER DAY  
2.  Enoxaparin Sodium 100 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time  
3.  Ketoconazole 2%  1 Appl TP BID  
4.  Warfarin 5 mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary emboli, bilateral segemental and subsegmental, acute, 
without evidence of right heart strain

Deep venous thrombosis, acute
Thrombocytopenia, unspecified
Hypogonadism
Obesity
OTC supplement use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for observation after being 
diagnosed with pulmonary embolism. You had very recently been 
diagnosed with a DVT in your left leg and started on Lovenox and 
Coumadin, and this DVT is the likely cause of your pulmonary 
embolism. Given the very short time between starting the 
medication and experiencing the embolism, this is very unlikely 
to represent failure of the medications to work.

I confirmed your Lovenox dosing with the pharmacy, and it is 
appropriate for your body weight as we discussed.

You are being discharged without any medication changes. You 
have an excellent follow up plan including PCP and ___ 
through ___.
 
Followup Instructions:
___